US07319099B2
(c) 1-(4-Cyclopropanesulfonyl-2-fluoro-phenyl)-piperazine
To 0.2 mmol 4-cyclopropanesulfonyl-1,2-difluoro-benzene in 5 ml N,N-dimethylacetamide was added 0.5 mmol piperazine and the mixture was heated at 80° C. for 90 min. The mixture was then concentrated in vacuo to afford the title compound. MS (m/e): 285.0 (M+H+, 100%)

reactant | 4-cyclopropanesulfonyl-1,2-difluoro-benzene | 0.2 mmol | C1(CC1)S(=O)(=O)C1=CC(=C(C=C1)F)F | C9H8F2O2S
reactant | piperazine | 0.5 mmol | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | 1-(4-Cyclopropanesulfonyl-2-fluoro-phenyl)-piperazine | C1(CC1)S(=O)(=O)C1=CC(=C(C=C1)N1CCNCC1)F | C13H17FN2O2S
